plaintext
* SPICE Netlist for the given schematic

M1 4 2 3 3 NMOS
R_O1 4 2 rO1
R_O2 3 5 rO2
R_O3 3 6 rO3
G_M3 3 6
V_IN 2 0 DC Vin_value

* Assuming gm3 is the transconductance value for the current source
* Note: Replace `NMOS`, `rO1`, `rO2`, `rO3`, and `GM3` with actual values or model names as needed

.tran 0.1ms 10ms
.end